US05536490
a) 16-(Methacryloyloxy)hexadecanoic acid
16-Hydroxyhexadecanoic acid (6.81 g, 25.0 mmol) was dissolved in tetrahydrofuran (150 ml) and the solution was cooled to 0° C. before adding pyridine (2.73 g, 34.5 mmol). Methacryloyl chloride (2.61 g, 25.0 mmol) was dissolved in tetrahydrofuran (75 ml) and added dropwise. The mixture was stirred for 1 hour at 0° C., and then at room temperature for 24 hours. The solvent was removed under reduced pressure (room temperature), the residue suspended in ether (100 ml) and the mixture washed with distilled water. The ether layer was dried (MgSO4) and the ether evaporated. Chromatographic purification on a silica gel column (1:2 ethyl acetate/hexane) afforded 5.0 g (64%) of the title compound. 1H NMR (60 MHz, CDCl3): δ1.3 (br s, 26H, (CH2)13), 1.95 (m, 3H, C=CCH3), 2.1-2.6 (m, 2H, CH2COO), 4.0-4.4 (m, 2H, COOCH2), 5.52 (m, 1H, vinyl), 6.10 (m, 1H, vinyl).

reactant | 16-Hydroxyhexadecanoic acid | 25.0 mmol, 6.81 g | OCCCCCCCCCCCCCCCC(=O)O | C16H32O3
reactant | pyridine | 34.5 mmol, 2.73 g | N1=CC=CC=C1 | C5H5N
reactant | Methacryloyl chloride | 25.0 mmol, 2.61 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 16-(Methacryloyloxy)hexadecanoic acid | 5.0 g, 64% | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCC(=O)O | C20H36O4
